US05089513
2-Bromomethylnaphthalene was reacted with methyl 3-hydroxy-2-methylbenzoate (Tetrahedron, 1969, 25, 4249) using the conditions described in Example 1 to give methyl 2-methyl-3-(naphth-2-ylmethoxy)benzoate in 92% yield, m.p. 47°-48° C. (recrystallised from a mixture of diethyl ether and pentane). The product so obtained was reacted with thiazol-2-yl-lithium using the procedure described in the 3rd paragraph of the portion of Example 3 which is concerned with the preparation of starting materials to give, after purification of the product by column chromatography using a 49:1 v/v mixture of toluene and ethyl acetate as eluent, 3-(naphth-2-ylmethoxy)-2-methylphenyl 2-thiazolyl ketone as an oil in 72% yield.

reactant | 2-Bromomethylnaphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | methyl 3-hydroxy-2-methylbenzoate | OC=1C(=C(C(=O)OC)C=CC1)C | C9H10O3
product | methyl 2-methyl-3-(naphth-2-ylmethoxy)benzoate | 92% yield | CC1=C(C(=O)OC)C=CC=C1OCC1=CC2=CC=CC=C2C=C1 | C20H18O3
